US04550119
α-Ethyl-4-(1H-imidazol-1-yl)-α-methyl-β-oxobenzenepropanoic acid methyl ester
To a slurry of 2.49 g of sodium hydride (60% dispersion in Nujol) in 50 ml of dimethylformamide is added a solution of 24.4 g of 4-(1H-imidazol-1yl)-β-oxobenzenepropanoic acid methyl ester in 75 ml of dimethylformamide at 15°-20° C. After the addition is completed 15.6 g of ethyl iodide is added and stirring is continued for 48 hours. The reaction mixture is filtered, poured into water, and the mixture is extracted with ether. Removal of the solvent and trituration with isopropyl ether gives an oil. A solution of 2.72 g of the oil in 10 ml of dimethylformamide is added to a slurry of 0.24 g of sodium hydride (60% dispersion in Nujol) at 15°-20°. A solution of 1.42 g of methyl iodide in 5 ml of dimethylformamide is added and stirring is continued for 20 hours at room temperature. The reaction mixture is filtered, poured into water, and is extracted with ether.

reactant | sodium hydride | 2.49 g | [H-].[Na+]
reactant | 4-(1H-imidazol-1yl)-β-oxobenzenepropanoic acid methyl ester | 24.4 g | COC(CC(C1=CC=C(C=C1)N1C=NC=C1)=O)=O | C13H12N2O3
reactant | ethyl iodide | 15.6 g | C(C)I | C2H5I
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | methyl iodide | 1.42 g | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | α-Ethyl-4-(1H-imidazol-1-yl)-α-methyl-β-oxobenzenepropanoic acid methyl ester | COC(C(C(C1=CC=C(C=C1)N1C=NC=C1)=O)(C)CC)=O | C16H18N2O3
